US04987132
A solution of 750 mg of p-(3-phenylpropoxy)benzaldehyde and 2.3 g of hydroxylamine hydrochloride in 20 ml of methanol was adjusted to pH 8 by addition of 10% sodium hydroxide under cooling. The mixture was stirred for 1 hour and, then, the methanol was evaporated. Water was added to the residue, and the product was extracted with ethyl acetate. The ethyl acetate layer was washed with water and saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate and concentrated to give 750 mg of p-(3-phenylpropoxy)benzaldehyde oxime. A solution of this compound in 10 ml of tetrahydrofuran was added dropwise to a suspension of 300 mg of lithium aluminum hydride in 6 ml of tetrahydrofuran at -30° C. After 20 minutes of stirring at -30° C., the temperature was raised to room temperature and stirring was continued for 2 hours. The excess lithium aluminum hydride was decomposed with sodium sulfate decahydrate, and the reaction mixture was filtered. The filtrate was diluted with ethyl acetate and washed with 10% hydrochloric acid. The hydrochloric acid layer was made alkaline with solid potassium hydroxide, and the product was extracted with ethyl acetate. The ethyl acetate layer was washed in sequence with water and saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate and concentrated under reduced pressure to give 260 mg of p-(3-phenylpropoxy)benzylamine.

reactant | p-(3-phenylpropoxy)benzaldehyde | 750 mg | C1(=CC=CC=C1)CCCOC1=CC=C(C=O)C=C1 | C16H16O2
reactant | hydroxylamine hydrochloride | 2.3 g | Cl.NO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | p-(3-phenylpropoxy)benzaldehyde oxime | 750 mg | C1(=CC=CC=C1)CCCOC1=CC=C(C=NO)C=C1 | C16H17NO2
